US08492371B2
6-(trifluoromethyl)isobenzofuran-1(3H)-one
Methyl 2-(hydroxymethyl)-5-(trifluoromethyl)benzoate (5.00 g, 21.4 mmol) in MeOH (50 mL) was added to Pd-dppf (Heraeus) (0.312 g, 0.427 mmol) and triethylamine (5.95 ml, 42.7 mmol) in a 250 mL stainless steel pressure bottle. The mixture was pressurized with carbon monoxide (60 psi), and stirred at 95° C. for 6 hours. The mixture was filtered through Celite, and the filtrate concentrated. The residue was purified by column chromatography using an Analogix® Intelliflash280™ (SiO2, 0-100% ethyl acetate in hexanes) to afford the title compound (2.5 g, 63%). MS (DCI/NH3) m/z 203 (M+H)+.

reactant | Methyl 2-(hydroxymethyl)-5-(trifluoromethyl)benzoate | 21.4 mmol, 5.00 g | OCC1=C(C(=O)OC)C=C(C=C1)C(F)(F)F | C10H9F3O3
reactant | triethylamine | 42.7 mmol, 5.95 ml | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd dppf | 0.427 mmol, 0.312 g | [Pd].C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 6-(trifluoromethyl)isobenzofuran-1(3H)-one | 2.5 g, 63% | FC(C1=CC=C2COC(C2=C1)=O)(F)F | C9H5F3O2
